US06528510B1
3-Hydroxy-4-methyl-3-(2-thiophen-3-yl-ethyl)-pentanoic acid tert-butyl ester
The title compound was prepared as described in General Method 9 using t-butyl acetate (42.6 mmol), diisopropyl amine (42.6 mmol), nBuLi (42.6 mmol), 4-methyl-1-thiophen-3-yl-pentan-3-one (Example C-5; 21.3 mmol), and THF (100 mL). The title compound was purified by flash chromatography over silica gel eluting with hexane:EtOAc 97:3. 1NMR (CDCl3): δ0.95 (dd, 6 H), 1.47 (s, 9 H), 1.7-2.0 (m, 3 H), 2.36-2.54 (AB q, 2 H), 2.6-2.8 (m, 2 H), 6.93-6.95 (m, 2 H), 7.23-7.25 (m, 1 H).

reactant | t-butyl acetate | 42.6 mmol | C(C)(=O)OC(C)(C)C | C6H12O2
reactant | diisopropyl amine | 42.6 mmol | C(C)(C)NC(C)C | C6H15N
reactant | nBuLi | 42.6 mmol | [Li]CCCC
reactant | 4-methyl-1-thiophen-3-yl-pentan-3-one | 21.3 mmol | CC(C(CCC1=CSC=C1)=O)C | C10H14OS
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 3-Hydroxy-4-methyl-3-(2-thiophen-3-yl-ethyl)-pentanoic acid tert-butyl ester | C(C)(C)(C)OC(CC(C(C)C)(CCC1=CSC=C1)O)=O | C16H26O3S
